US07776897B2
Ethyl 1-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]cyclobutanecarboxylate was reacted with potassium hydroxide in hydrous ethanol at room temperature to obtain 1-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]cyclobutanecarboxylic acid.

reactant | Ethyl 1-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]cyclobutanecarboxylate | ClC1=C(C=CC=C1)C=1N(C(=NN1)C1(CCC1)C(=O)OCC)C | C16H18ClN3O2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 1-[5-(2-chlorophenyl)-4-methyl-1,2,4-triazol-3-yl]cyclobutanecarboxylic acid | ClC1=C(C=CC=C1)C=1N(C(=NN1)C1(CCC1)C(=O)O)C | C14H14ClN3O2
